US04137082
(1) Preparation of N,N'-bischloroacetylpiperazine
By reacting 8.6 g of piperazine with 23 g of chloroacetic chloride in the same manner as described in Synthesis Example 1, 36 g of crystals of the title compound were obtained.

reactant | piperazine | 8.6 g | N1CCNCC1 | C4H10N2
reactant | chloroacetic chloride | 23 g | ClCC(=O)Cl | C2H2Cl2O
product | N,N'-bischloroacetylpiperazine | ClCC(=O)N1CCN(CC1)C(CCl)=O | C8H12Cl2N2O2
